US06288096B1
1.6 g (5 mmole) N-{4-[2-(4-formylphenoxy)ethyl]phenyl}methanesulfonamide, 0.73 g (6.25 mmole) 2,4-thiazolidinedione and 1.025 g (12.5 mmole) sodium acetate were mixed and heated to 140° C. on an oil bath under vacuum (it melted at 130° C.). It was kept at 140° C. for 20 minutes and thereafter taken off the heat. When the temperature was low enough water:acetone (2:1) was added to dissolve the reaction product. Acetone was evaporated in vacuo, acetic acid was added and the obtained crystals were filtered off and recrystallized in dichloromethane to give 0.83 g (yield 40%) of 5-(4-[2-(4-methanesulfonylamino-phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | N-{4-[2-(4-formylphenoxy)ethyl]phenyl}methanesulfonamide | 5 mmole, 1.6 g | C(=O)C1=CC=C(OCCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C16H17NO4S
reactant | 2,4-thiazolidinedione | 6.25 mmole, 0.73 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 12.5 mmole, 1.025 g | C(C)(=O)[O-].[Na+]
solvent | water acetone | O.CC(=O)C
product | 5-(4-[2-(4-methanesulfonylamino-phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 0.83 g, yield 40% | CS(=O)(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H18N2O5S2
